US08975400B2
2-((5,6-difluoropyridin-3-yl)oxy)-5-formylbenzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 5,6-difluoropyridin-3-ol.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 5,6-difluoropyridin-3-ol | FC=1C=C(C=NC1F)O | C5H3F2NO
product | 2-((5,6-difluoropyridin-3-yl)oxy)-5-formylbenzonitrile | FC=1C=C(C=NC1F)OC1=C(C#N)C=C(C=C1)C=O | C13H6F2N2O2
